US06498165B1
2-[3-Fluoro-5-trifluoromethylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-fluoro-5-trifluoromethylbenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 388.1 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.58 (s, 1H); 8.46 (d, J=5.4 Hz, 1H); 7.99 (br s, 1H); 7.86 (d, J=8.7 Hz, 1H); 7.49 (s, 1H); 6.90 (d, J=5.5 Hz, 1H); 5.88 (br s, 1H); 4.82 (d, J=6.2 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-fluoro-5-trifluoromethylbenzylamine | FC=1C=C(CN)C=C(C1)C(F)(F)F | C8H7F4N
product | 2-[3-Fluoro-5-trifluoromethylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine | FC=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=C(C1)C(F)(F)F | C19H13F4N5
